US08084621B2
Synthesis of N-(2-hydroxyethyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide (II-2)
Similar procedure as Example 2, 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid (S4) 0.2 g (1.0 mmol) and 2-aminoethanol 0.13 g (2.1 mmol) was reacted. The reaction solution was concentrated and purified by a silica gel column, eluted with CH2Cl2/MeOH (10:1), to give 0.20 g (85%) of the titled compound as a white solid.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid | 1.0 mmol, 0.2 g | CC=1NC=2C(CCCC2C1C(=O)O)=O | C10H11NO3
reactant | 2-aminoethanol | 2.1 mmol, 0.13 g | NCCO | C2H7NO
product | N-(2-hydroxyethyl)-2-methyl-7-oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxamide | 0.20 g, 85% | OCCNC(=O)C1=C(NC=2C(CCCC12)=O)C | C12H16N2O3
